US07897589B2
Preparation of 5-(4-Bromo-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazole-3-carboxylic acid azepan-1-ylamide
This compound was obtained following the same method described in Example 1 starting from 5-(4-bromophenyl)-1-(2,4-dichlorophenyl)-4,5-dihydro-pyrazole-3-carboxylic acid chloride and azepan-1-amine.

reactant | 5-(4-bromophenyl)-1-(2,4-dichlorophenyl)-4,5-dihydro-pyrazole-3-carboxylic acid chloride | BrC1=CC=C(C=C1)C1CC(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)Cl | C16H10BrCl3N2O
reactant | azepan-1-amine | N1(CCCCCC1)N | C6H14N2
product | 5-(4-Bromo-phenyl)-1-(2,4-dichloro-phenyl)-4,5-dihydro-1H-pyrazole-3-carboxylic acid azepan-1-ylamide | N1(CCCCCC1)NC(=O)C1=NN(C(C1)C1=CC=C(C=C1)Br)C1=C(C=C(C=C1)Cl)Cl | C22H23BrCl2N4O
